US04245076
In analogy to A(2), 200 gm of 12-hydroxystearic acid were esterified with 300 ml of allyl alcohol. The 12-hydroxystearic acid allyl ester was obtained in a yield of 78%, and was distilled over in the high-vacuum at about 160° C. to 180° C.

reactant | 12-hydroxystearic acid | 200 gm | OC(CCCCCCCCCCC(=O)O)CCCCCC | C18H36O3
reactant | allyl alcohol | 300 ml | C(C=C)O | C3H6O
product | 12-hydroxystearic acid allyl ester | yield of 78% | C(C=C)OC(CCCCCCCCCCC(CCCCCC)O)=O | C21H40O3
